US06903120B2
Methanesulfonic acid 3-(1-propyl-piperidin-4-yl)-phenyl ester
A solution of 3-(1-propyl-piperidin-4-yl)-phenol (340 mg) and triethylamine (187 mg) in 20 ml of CH2Cl2 was cooled to 0° C. Then methanesulfonyl chloride (194 mg) dissolved in 10 ml of CH2Cl2 was added dropwise. The reaction mixture was allowed to reach room temperature and then stirred for 2.5 h at 25° C. The reaction was finally quenched with water. The organic layer was separated and washed with 10% HCl and then 10% Na2CO3.

reactant | 3-(1-propyl-piperidin-4-yl)-phenol | 340 mg | C(CC)N1CCC(CC1)C=1C=C(C=CC1)O | C14H21NO
reactant | triethylamine | 187 mg | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 194 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | Methanesulfonic acid 3-(1-propyl-piperidin-4-yl)-phenyl ester | C(CC)N1CCC(CC1)C=1C=C(C=CC1)OS(=O)(=O)C | C15H23NO3S
